US04385177
E-2-Methoxycarbamoylmethoxyimino-2-(thien-2-yl)acetic acid
This compound was prepared by the method of Preparation 4 from methyl chloroacetohydroxamate and E-2-hydroxyimino-2-(thien-2-yl)acetic acid, νmax (Nujol) 3380 (--NH--), 1750, 1729 (--CO2H), 3700-2400 (bonded OH), 1690 cm-1 (--CONH--), τ(DMSO d6) 2.2-3.0 (thienyl), 5.49 (--OCH2CO--), 6.38 (--OCH3). Yield 34%.

reactant | methyl chloroacetohydroxamate | ClCC(=O)NOC | C3H6ClNO2
reactant | E-2-hydroxyimino-2-(thien-2-yl)acetic acid | O\N=C(/C(=O)O)\C=1SC=CC1 | C6H5NO3S
solvent | DMSO | CS(=O)C | C2H6OS
product | E-2-Methoxycarbamoylmethoxyimino-2-(thien-2-yl)acetic acid | Yield 34% | CONC(=O)CO\N=C(/C(=O)O)\C=1SC=CC1 | C9H10N2O5S
